US08937078B2
Step C: Preparation of 1-[6-bromo-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
DIEA (1.23 mL, 7.08 mmol) was added to 1-(6-bromo-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.980 g, 2.70 mmol) in THF (13.5 mL), followed by (2-chloromethoxy-ethyl)-trimethyl-silane (0.500 mL, 3.27 mmol). The reaction mixture was stirred at room temperature for 18 h, and concentrated. The residue was purified by FCC (0-20% EtOAc/hexanes) to yield the titled compound (1.27 g, 95% yield). MS (ESI/Cl): mass calcd. for C20H25BrN4O4Si, 492.1; m/z found, 435.1 [M−58+H]+.

reactant | DIEA | 7.08 mmol, 1.23 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(6-bromo-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 2.70 mmol, 0.980 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)Br | C14H11BrN4O3
reactant | (2-chloromethoxy-ethyl)-trimethyl-silane | 3.27 mmol, 0.500 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | THF | 13.5 mL | C1CCOC1 | C4H8O
product | 1-[6-bromo-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 1.27 g, 95% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)Br | C20H25BrN4O4Si
